US08357694B2
This product was synthesized as described in general procedure 2 except 4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate was used instead of 4-(6-(3-bromophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate and 1-(2-methoxyethyl)piperazine was used instead of piperidine to afford 6-(2-chlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride. 1H-NMR 400 MHz (CDCl3) δ 8.43 (d, J=7.4, 1H), 8.11 (s, 1H), 7.63 (d, J=7.4 Hz, 2H), 7.44-7.39 (m, 3H), 7.40 (s, 1H), 7.21 (d, J=6.6 Hz, 2H), 7.15-7.12 (m, 1H), 7.02 (d, J=7.8, 2H), 6.73 (d, J=6.2, 1H), 4.85 (m, 1H), 3.35 (s, 3H), 3.55 (t, J=5.4, 2H), 3.18-3.13 (m, 3H), 2.66-2.61 (m, 11H). LCMS m/e 554 (M+H).

reactant | 4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=CC=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | 1-(2-methoxyethyl)piperazine | COCCN1CCNCC1 | C7H16N2O
product | 6-(2-chlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=C(C=CC=C1)C1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCN(CC2)CCOC | InChI=1S/C33H36ClN5O.ClH/c1-40-21-20-39-18-16-38(17-19-39)15-14-24-10-12-26(13-11-24)36-33-35-23-25-22-30(28-7-4-5-9-31(28)34)27-6-2-3-8-29(27)32(25)37-33;/h2-13,23,30H,14-22H2,1H3,(H,35,36,37);1H
